US07939531B2
1-{2-[1-(2-Hydroxy-ethyl)-1H-indol-3-yl]-5H-pyrrolo[2,3-b]pyrazin-7-yl}-2,2-dimethyl-propan-1-one was prepared following the same procedure but using 1-[2-{1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-1H-indol-3-yl}-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one as starting material. The product was obtained in 67% by trituration in MeOH.

reactant | 1-[2-{1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-1H-indol-3-yl}-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | C(C)(C)(C)[Si](OCCN1C=C(C2=CC=CC=C12)C=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C)(C)C | C33H50N4O3Si2
solvent | MeOH | CO | CH4O
product | 1-{2-[1-(2-Hydroxy-ethyl)-1H-indol-3-yl]-5H-pyrrolo[2,3-b]pyrazin-7-yl}-2,2-dimethyl-propan-1-one | OCCN1C=C(C2=CC=CC=C12)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C21H22N4O2
